US04327221
3-Acetoxy-5-(4-chlorophenyl)-2-phenylthiazolo[2,3-b]thiazolium bromide
A mixture of 10.0 g. (0.044 m.) 4-(4-chlorophenyl)-2-mercaptothiazole (prepared by the reaction of α-bromo-4-chloroacetophenone with ammonium dithiocarbamate) and 10.0 g. (0.04 m.) α-bromophenylacetic acid in 200 ml. of acetone and 40 ml. each of glacial acetic acid and acetic anhydride is heated for 2 hours. After the solvents are removed, the residual solid is triturated with acetone and the resulting solid collected. 10 g. (58% yield) of the title product is obtained, m.p. 160°-165° C.

reactant | 4-(4-chlorophenyl)-2-mercaptothiazole | ClC1=CC=C(C=C1)C=1N=C(SC1)S | C9H6ClNS2
reactant | α-bromo-4-chloroacetophenone | C1=CC(=CC=C1C(=O)CBr)Cl | C8H6BrClO
reactant | ammonium dithiocarbamate | C(N)([S-])=S.[NH4+]
reactant | α-bromophenylacetic acid | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetone | CC(=O)C | C3H6O
product | 3-Acetoxy-5-(4-chlorophenyl)-2-phenylthiazolo[2,3-b]thiazolium bromide | 58% yield | [Br-].C(C)(=O)OC1=C(SC=2SC=C([N+]21)C2=CC=C(C=C2)Cl)C2=CC=CC=C2 | InChI=1S/C19H13ClNO2S2.BrH/c1-12(22)23-18-17(14-5-3-2-4-6-14)25-19-21(18)16(11-24-19)13-7-9-15(20)10-8-13;/h2-11H,1H3;1H/q+1;/p-1
